US06455587B1
Preparation of Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-benzylsulfonyl-L-lysine (Compound No. 115)
Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine was reacted with benzylsulfonyl chloride under the conditions described in example 2 to yield 24% of the desired product.

reactant | Nα-isobutyl-Nα-(4-nitrobenzenesulfonyl)-L-lysine | C(C(C)C)N([C@@H](CCCCN)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H25N3O6S
reactant | benzylsulfonyl chloride | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
product | Nα-Isobutyl-Nα-(4-nitrobenzenesulfonyl)-Nε-benzylsulfonyl-L-lysine | 24% | C(C(C)C)N([C@@H](CCCCNS(=O)(=O)CC1=CC=CC=C1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C23H31N3O8S2
